US07842713B2
Preparation of Intermediate: (3,5-difluoropyridin-2-yl)(3-fluoroazetidin-1-yl)methanone
To a solution of 3,5-difluoropicolinic acid (16.40 g, 103.1 mmol), 3-fluoroazetidine (8.59 g, 114 mmol) and triethylamine (27.70 ml, 199.0 mmol) in 100 mL of DMF was added HATU (45.40 g, 119.0 mmol). The mixture was stirred at room temperature for 3 hr, quenched with water, extracted with 3×EtOAc, The combined organic layer was washed with 2×H2O, dried with Na2SO4, and concentrated to provide an oil that was purified by Biotage eluting with 25-40% EtOAc in hexanes to give a yellow solid (11.49 g, 46.3% yield). 1H NMR (400 MHz, CDCl3) δ 8.34 (d, J=2.53 Hz, 1 H) 7.31-7.46 (m, 1 H) 5.27-5.52 (m, 1 H) 4.62-4.79 (m, 1 H) 4.42-4.59 (m, 2 H) 4.22-4.38 (m, 1 H); MS for C9H7F3N2O m/z 217.00 (M+H)+

reactant | 3,5-difluoropicolinic acid | 103.1 mmol, 16.40 g | FC=1C(=NC=C(C1)F)C(=O)O | C6H3F2NO2
reactant | 3-fluoroazetidine | 114 mmol, 8.59 g | FC1CNC1 | C3H6FN
reactant | triethylamine | 199.0 mmol, 27.70 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 119.0 mmol, 45.40 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (3,5-difluoropyridin-2-yl)(3-fluoroazetidin-1-yl)methanone | 11.49 g, 46.3% yield | FC=1C(=NC=C(C1)F)C(=O)N1CC(C1)F | C9H7F3N2O
